US05321096
Successively, to a reduction vessel equipped with a thermometer, reflux condenser and stirrer, 90 g (0.124 mol) of 1,3-bis[4-(4-nitro-6-trifluoromethylphenoxy)-α, α-dimethylbenzyl]benzene, 500 ml of methyl cellosolve and 5 g of 5%-Pd/c having a moisture content of 50% were charged and reacted at 70°~80° C. for 4 hours in a hydrogen atmosphere. After finishing the reaction, the catalyst was filtered off and the filtrate was concentrated under reduced pressure to obtain 73.4 g (89% yield) of 1,3-bis[4-(4-amino-6-trifluoromethylphenoxy)-α, α-dimethylbenzyl]benzene as a light yellow crystal having a melting point of 118.5~119.2.

reactant | 1,3-bis[4-(4-nitro-6-trifluoromethylphenoxy)-α, α-dimethylbenzyl]benzene | 0.124 mol, 90 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C(C)(C)C3=CC(=CC=C3)C(C3=CC=C(C=C3)OC3=CC=C(C=C3C(F)(F)F)[N+](=O)[O-])(C)C)C=C2)C(=C1)C(F)(F)F | C38H30F6N2O6
reactant | hydrogen | [H][H] | H2
catalyst | Pd | [Pd] | Pd
solvent | methyl cellosolve | 500 ml | COCCO | C3H8O2
product | 1,3-bis[4-(4-amino-6-trifluoromethylphenoxy)-α, α-dimethylbenzyl]benzene | 73.4 g, 89% yield | NC1=CC=C(OC2=CC=C(C(C)(C)C3=CC(=CC=C3)C(C3=CC=C(C=C3)OC3=CC=C(C=C3C(F)(F)F)N)(C)C)C=C2)C(=C1)C(F)(F)F | C38H34F6N2O2
